US04109088
A solution of 2.7 g. of phenylmagnesium bromide in 20 ml. of tetrahydrofuran was added dropwise to a mixture of 3.03g. of 4-isopropyl-5-oxo-2-(1-oxo-5-indanyloxymethyl)morpholine in 100 ml of tetrahydrofuran with stirring at room temperature and the mixture thus obtained was stirred for 30 minutes. Then, after adding to the mixture a small amount of water, tetrahydrofuran was distilled off under reduced pressure. To the residue formed were added 100 ml. of ethyl acetate and 100 ml. of water to dissolve the residue and the ethyl acetate layer formed was recovered, washed twice each with 50 ml. of water and then 50 ml. of saturated aqueous sodium chloride aqueous solution, and then ethyl acetate was distilled off. The residue formed was adsorbed on a silica gel column prepared from 150 ml. of silica gel in chloroform and then eluted with ethyl acetate. After removing the first 10 ml. of the ethyl acetate eluate emerging from the column, 300 ml. of the subsequent ethyl acetate eluate was collected and dried to provide 2.93 g. (yield 77%) of oily 2-(1-hydroxy-1-phenyl-5-indanyloxymethyl)-4-isopropyl-5-oxomorpholine.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 4-isopropyl-5-oxo-2-(1-oxo-5-indanyloxymethyl)morpholine | C(C)(C)N1CC(OCC1=O)C(=O)OC=1C=C2CCCC2=CC1 | C17H21NO4
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(1-hydroxy-1-phenyl-5-indanyloxymethyl)-4-isopropyl-5-oxomorpholine | yield 77% | OC(C1=CC=CC=C1)(C1CN(C(CO1)=O)C(C)C)OC=1C=C2CCCC2=CC1 | C23H27NO4
